US08497264B2
To a suspension of 7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-one (20 g, 61.9 mmol) in 2-methyl-THF (300 mL) a solution of (2-tert-butoxy-2-oxoethyl)zinc(II) chloride (0.5 M in Et2O; 186 mL, 93 mmol) was added at RT. The mixture was stirred for 10 min at RT, and then heated to 45° C. for 1 hour. The reaction mixture was cooled to RT and quenched with aqueous, saturated NH4Cl (150 mL) and water (100 mL). The organic layer was separated, washed with brine and filtered through the pad of Celite. The solvent was removed under reduced pressure to yield as a yellowish solid which was dissolved in of benzene (200 mL). Azidotrimethylsilane (12.30 mL, 93 mmol) was added and the reaction mixture was cooled to 5° C. Borontrifluoride etherate (7.84 mL, 61.9 mmol) was added drop wise. The reaction mixture was quenched by the addition of MeOH (5 mL) and aqueous, saturated NaHCO3 solution (100 ml). The organic layer was separated, washed with brine, filtered through Celite and concentrated under reduced pressure to afford a yellow residue, which was dissolved in THF (300 mL). The solution was cooled to 0° C. and LAH (1M in THF; 93 mL, 93 mmol) was added drop wise at this temperature. The reaction mixture was allowed to warm to RT and quenched by the addition of sodium sulfate decahydrate (20 g). The reaction mixture was stirred for 2 hrs at RT, then filtered through celite. The filter cake was washed twice with EtOAc. The filtrate was concentrated under reduced pressure and the residue was purified by chromatography [5-50% DCM/MeOH/NH4OH (90:10:1)] in DCM to afford 2-(9-amino-7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-yl)ethanol (10.99 g, 29.8 mmol).

reactant | 7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-one | 61.9 mmol, 20 g | BrC1=CC=C2OC=3C(=CC(=CC3C(C2=C1)=O)OC)F | C14H8BrFO3
reactant | (2-tert-butoxy-2-oxoethyl)zinc(II) chloride | 93 mmol, 0.5 M, 186 mL | [Cl-].C(C)(C)(C)OC(C[Zn+])=O
reactant | Azidotrimethylsilane | 93 mmol, 12.30 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | Borontrifluoride etherate | 61.9 mmol, 7.84 mL | B(F)(F)F.CCOCC
reactant | LAH | 93 mmol, 1M, 93 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-(9-amino-7-bromo-4-fluoro-2-methoxy-9H-xanthen-9-yl)ethanol | 29.8 mmol, 10.99 g | NC1(C2=CC(=CC=C2OC=2C(=CC(=CC12)OC)F)Br)CCO | C16H15BrFNO3
